US04973767
3-Methyl-4-(4-chlorophenyl)but-1-en-4-ol (63.68 g, approximately 90% pure, approximately 292 mmol), dibromomethane (45.5 ml, 648 mmol), zinc dust (84.75 g, 1.296 mol) and copper(I) chloride (12.83 g, 130 mmol) in dry ether (180 ml) were heated under reflux in a sonic bath for 31/2 hours. The mixture was then filtered (celite) and the filtrate poured into 2M hydrochloric acid. The mixture was extracted with ether and the combined extracts washed with water, saturated aqueous sodium bicarbonate solution and water, dried and evaporated in vacuo. Chromatography [SiO2, hexane-ethyl acetate (100:0) to (80:20)] gave 1-(4-chlorophenyl)-2-cyclopropylpropan-1-ol (44.72 g, 73%).

reactant | 3-Methyl-4-(4-chlorophenyl)but-1-en-4-ol | approximately 292 mmol, 63.68 g | CC(C=C)C(O)C1=CC=C(C=C1)Cl | C11H13ClO
reactant | dibromomethane | 648 mmol, 45.5 ml | BrCBr | CH2Br2
solvent | ether | 180 ml | CCOCC | C4H10O
catalyst | zinc | 1.296 mol, 84.75 g | [Zn] | Zn
catalyst | copper(I) chloride | 130 mmol, 12.83 g | [Cu]Cl
product | 1-(4-chlorophenyl)-2-cyclopropylpropan-1-ol | 44.72 g, 73% | ClC1=CC=C(C=C1)C(C(C)C1CC1)O | C12H15ClO
